US07671043B2
2A. Ethyl 4-isobutylbenzoate
Triethylorthoacetate (15.4 mL, 84.2 mmol) was added slowly to a solution of isobutyl benzoic acid (5.0 g, 28.1 mmol) and toluene (60 mL) at room temperature. The resulting heterogeneous solution was heated to 115° C. and stirred for 24 hours. The reaction mixture was cooled to room temperature and quenched with 1N HCl (60 mL). The organic layer was separated, washed with saturated NaHCO3 (1×30 mL) and brine (1×30 mL), dried (MgSO4), filtered and concentrated in vacuo to obtain the title compound (5.59 g, 97% yield) as a clear oil.

reactant | Triethylorthoacetate | 84.2 mmol, 15.4 mL | C(C)C(C([O-])([O-])[O-])(CC)CC
reactant | isobutyl benzoic acid | 28.1 mmol, 5.0 g | C(C(C)C)C1=C(C(=O)O)C=CC=C1 | C11H14O2
reactant | toluene | 60 mL | C1(=CC=CC=C1)C | C7H8
product | Ethyl 4-isobutylbenzoate | 5.59 g, 97% yield | C(C(C)C)C1=CC=C(C(=O)OCC)C=C1 | C13H18O2
